US07528134B2
benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydro-1(2H)-pyridinecarboxylate
The title compound was prepared according to the procedure described in J. Org. Chem. 1998, 63, 8320. Benzyl 4-oxo-1-piperidinecarboxylate (0.5 g, 2.1 mmol) and N-phenytrifluoromethanesulfonimide (1.15 g, 3.2 mmol) in tetrahydrofuran (10 mL) at −78° C. was treated with lithium hexamethyldisilazide (2.14 mL, 2.1 mmol). After 4 hours at −78° C., the mixture was quenched with water and extracted with a large excess of diethyl ether (3×). The ethereal layers were combined, dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue was chromatographed on flash silica gel (20% ethyl acetate:hexanes) to provide the title compound (0.471 g, 60% yield). 1H NMR (300 MHz, CDCl3) δ 2.47 (m, 2H), 3.72 (m, 2H), 4.13 (m, 2H), 5.16 (s, 2H), 5.78 (br m, 1H), 7.36 (m, 5H); MS (ESI) m/e 366 (M+H)+.

reactant | Benzyl 4-oxo-1-piperidinecarboxylate | 2.1 mmol, 0.5 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | N-phenytrifluoromethanesulfonimide | 3.2 mmol, 1.15 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | lithium hexamethyldisilazide | 2.1 mmol, 2.14 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.471 g, 60% yield | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H14F3NO5S
